US07161005B2
A mixture of 10 g (37 mmol) of 1,5-di-pyridin-2-yl-pentane-1,3,5-trione and 20 g (260 mmol) of ammonium acetate is boiled under reflux in 250 ml of ethanol for 8 hours. The mixture so obtained is concentrated to about half its volume. After filtration, 1′H-[2,2′;6′,2″]terpyridine-4′-one is obtained in the form of a white solid. 1H-NMR (360 MHz, DMSO-d6): 7.40–7.50 (qm, 2H); 7.87 (s, 2H); 7.92–8.0 (tm, 2H); 8.57 (d, 2H, 7.7 Hz); 8.68 (d, 2H, J=4.5 Hz), 10.9 (s, 1H). MS (EI pos., 70 eV), m/z=249 (100, [M+]); 221 (40).

reactant | 1,5-di-pyridin-2-yl-pentane-1,3,5-trione | 37 mmol, 10 g | N1=C(C=CC=C1)C(CC(CC(=O)C1=NC=CC=C1)=O)=O | C15H12N2O3
reactant | ammonium acetate | 260 mmol, 20 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1′H-[2,2′;6′,2″]terpyridine-4′-one | N1=C(C=CC=C1)C=1NC(=CC(C1)=O)C1=NC=CC=C1 | C15H11N3O
